US04668686
A solution of 5-[(2-nitro-5-methoxyphenyl)methylene]-2,4-imidazolidinedione (4.5 g, 17 mmol) in dimethylformamide (120 mL) was hydrogenated over 10% palladium on charcoal (0.45 g) at 60 psi. After 42 hours the mixture was filtered through infusorial earth and the solvent evaporated to leave a brown solid. A mixture of this material and methanol (150 mL) was heated to reflux and iodine (3.65 g, 14 mmol) introduced portionwise over 15 minutes. The reaction mixture was refluxed 45 minutes, cooled and concentrated to 20 mL before adding a solution of sodium thiosulfte (10 g) and sodium carbonate (10 g) in water (200 mL). The precipitate was filtered off, suspended in hot (80° C.) water (200 mL) and filtered. Recrystallization from aqueous dimethylformamide afforded 7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one (1.61 g, 43%), m.p.>360° C.

reactant | 5-[(2-nitro-5-methoxyphenyl)methylene]-2,4-imidazolidinedione | 17 mmol, 4.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC)C=C1C(NC(N1)=O)=O | C11H9N3O5
reactant | methanol | 150 mL | CO | CH4O
reactant | iodine | 14 mmol, 3.65 g | II | I2
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 0.45 g | [Pd] | Pd
product | 7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one | 1.61 g, 43% | COC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C11H9N3O2
